2132-01-05 06:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2132-1-4**] 10:40 AM
 ULTRASOUND - At [**2132-1-4**] 02:15 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2132-1-4**] 03:14 PM
   200 Joules
 EKG - At [**2132-1-4**] 03:17 PM
   - Esmolol drip slowed and d/c'd, pt HR stable for approx 3 hours, then
   went back into Afib at 170s, esmolol drip restarted with HR returning
   back to 120s
   Allergies:
   Cefepime
   Rash;
   Aztreonam
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-1-3**] 02:41 AM
   Metronidazole - [**2132-1-3**] 09:00 AM
   Piperacillin - [**2132-1-3**] 01:40 PM
   Vancomycin - [**2132-1-4**] 04:30 AM
   Caspofungin - [**2132-1-4**] 08:42 AM
   Acyclovir - [**2132-1-4**] 04:31 PM
   Meropenem - [**2132-1-4**] 08:45 PM
   Tobramycin - [**2132-1-4**] 10:10 PM
   Linezolid - [**2132-1-5**] 01:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Amiodarone - 0.5 mg/min
   Esmolol - 100 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-1-4**] 08:42 AM
   Adenosine - [**2132-1-4**] 03:09 PM
   Metoprolol - [**2132-1-4**] 03:25 PM
   Fentanyl - [**2132-1-5**] 12:45 AM
   Midazolam (Versed) - [**2132-1-5**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-5**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.3
C (95.6
   HR: 123 (60 - 185) bpm
   BP: 110/80(90) {77/50(59) - 135/99(112)} mmHg
   RR: 18 (0 - 42) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 48.5 kg (admission): 41 kg
    CVP: 7 (-1 - 9)mmHg
   Total In:
                                                                  5,044 mL
                                                                  1,561 mL
   PO:
   TF:
                                                                     83 mL
                                                                     41 mL
   IVF:
                                                                  4,218 mL
                                                                  1,521 mL
   Blood products:
                                                                    744 mL
   Total out:
                                                                  1,825 mL
                                                                    320 mL
   Urine:
                                                                  1,645 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,219 mL
                                                                  1,241 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 475 (352 - 487) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: Agitated
   PIP: 14 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: 7.43/35/121/23/0
   Ve: 15.4 L/min
   PaO2 / FiO2: 346
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   76 K/uL
   9.8 g/dL
   190 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.5 mEq/L
   25 mg/dL
   107 mEq/L
   137 mEq/L
   26.0 %
   11.2 K/uL
        [image002.jpg]
                            [**2132-1-3**]  02:57 PM
                            [**2132-1-3**]  08:19 PM
                            [**2132-1-4**]  02:25 AM
                            [**2132-1-4**]  04:50 AM
                            [**2132-1-4**]  09:58 AM
                            [**2132-1-4**]  02:08 PM
                            [**2132-1-4**]  02:33 PM
                            [**2132-1-4**]  09:39 PM
                            [**2132-1-5**]  01:12 AM
                            [**2132-1-5**]  03:44 AM
   WBC
   5.5
   7.6
   9.4
   17.0
   11.2
   Hct
   24.3
   25.1
   25.1
   27.3
   26.0
   Plt
   34
   64
   46
   91
   145
   76
   Cr
   0.7
   0.7
   0.6
   TCO2
   25
   24
   27
   24
   Glucose
   149
   114
   143
   190
   Other labs: PT / PTT / INR:14.5/27.8/1.3, ALT / AST:58/32, Alk Phos / T
   Bili:91/6.7, Differential-Neuts:94.9 %, Band:3.0 %, Lymph:3.1 %,
   Mono:1.9 %, Eos:0.1 %, Fibrinogen:552 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:205 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   56-year-old woman with a history of [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3327**] chromosome ALL s/p
   allogeneic transplant, s/p DLI (day 121) with subsequent severe GVHD
   underwent thoracotomy for empyema and found to be in septic shock.
   .
   # Septic shock:  Most likely source is empyema and bacteremia.  Also
   has urine and BAL with GNR.  History of VRE UTI.  Currently maintaining
   good urine output.
   - f/u Cx and sensitivities
   - continue tobramycin, linezolid, meropenem
   - continue caspofungin and acyclovir prophylaxis, sent beta-glucan and
   galactomannan, f/u results
   - continue hydrocortisone (stress dose given chronic steroids)
   - IVF and pressors to MAP > 65, weaned pressors
   - appreciate ID following/recs
   .
   # Atrial fibrillation:  Her rapid ventricular rate is secondary to
   stress due to infection.  She appears to be intravascularly volume
   down.  She also has pain which is contributing to pain
   - weaned esmolol
   - IVF to address hypotension/ sepsis
   - complete amio IV load with gtt, will cont amio IV, reassess need each
   day
   - appreciate cardiology following/recs
   .
   # Right lung empyema: s/p thoracotomy and 3 chest tubes, ? two with air
   leak.
   - appreciate thoracic [**Doctor First Name 91**] following and recs
   - antibiotics as above
   - appreciate ID recs
   .
   # Respiratory alkalosis: Most likely due to increased RR.
   - decreased RR and rechecked ABG
   - readjusted the tube positioning
   .
   # GVHD:  Patient is found to have severe graft vs host disease.  Tbili
   decreasing this AM.
   - appreciate BMT recs.
   - continue mycophenolate mofetil
   - continue hydrocortisone
   - appreciated GI recs regarding elevated bili
   - skin lesions
 uncertain etiology
 h/o GVHD skin lesions
   .
   # Thrombocytopenia:  Most likely due to GVHD vs. bone marrow
   suppression secondary to sepsis.
   - Plt transfusion to 60 000 per BMT recs
   .
   # ALL: Appreciate BMT recs
   .
   # FEN: Trophic tube feeds started today.  ? Nutrition consult for TPN.
   Replete lytes prn.
   .
   # Prophylaxis: PPI. Pneumoboots given thrombocytopenia.
   .
   # Access: IJ and Aline
   .
   # Contact:  HCP [**Name (NI) 3369**] [**Name (NI) 3370**], Husband, [**Telephone/Fax (1) 3371**]
   .
   # Code: Full Code
   .
   # Dispo: ICU for now
 HEMOTHORAX
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CANCER (MALIGNANT NEOPLASM), OTHER
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-1-3**] 12:46 AM
   Multi Lumen - [**2132-1-3**] 09:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-01-05 10:00:00 Physician Attending Progress Note
Chief Complaint: empyema, resp failure, sepsis, unstable atrial
   fibrillation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2132-1-4**] 10:40 AM
 ULTRASOUND - At [**2132-1-4**] 02:15 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2132-1-4**] 03:14 PM
   200 Joules
 EKG - At [**2132-1-4**] 03:17 [**Hospital 388**]
   Transfered to MICU service.
   Very eventful night with AFib, hypotension, and urgent cardioversion.
   Off of phenylephrine just after midnight.
   Now back in sinus off amio gtt; esmolol off at present.
   Allergies:
   Cefepime
   Rash;
   Aztreonam
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-1-3**] 02:41 AM
   Metronidazole - [**2132-1-3**] 09:00 AM
   Piperacillin - [**2132-1-3**] 01:40 PM
   Vancomycin - [**2132-1-4**] 04:30 AM
   Caspofungin - [**2132-1-4**] 08:42 AM
   Linezolid - [**2132-1-5**] 01:00 AM
   Tobramycin - [**2132-1-5**] 05:45 AM
   Meropenem - [**2132-1-5**] 07:30 AM
   Acyclovir - [**2132-1-5**] 08:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Adenosine - [**2132-1-4**] 03:09 PM
   Metoprolol - [**2132-1-4**] 03:25 PM
   Fentanyl - [**2132-1-5**] 12:45 AM
   Midazolam (Versed) - [**2132-1-5**] 08:00 AM
   Other medications:
   PPI, CHG, acyclovir, caspo, linezolid, tobra q8, SQI, cellcept,
   meropenem, hydrocort 100 q8, amio gtt 0.5, fentanyl gtt, bolus midaz
   prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-5**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 91 (60 - 185) bpm
   BP: 123/76(95) {77/50(59) - 135/99(112)} mmHg
   RR: 16 (0 - 42) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.5 kg (admission): 41 kg
   CVP: 5 (-1 - 9)mmHg
   Total In:
                                                                  5,044 mL
                                                                  1,960 mL
   PO:
   TF:
                                                                     83 mL
                                                                     53 mL
   IVF:
                                                                  4,218 mL
                                                                  1,906 mL
   Blood products:
                                                                    744 mL
   Total out:
                                                                  1,825 mL
                                                                    420 mL
   Urine:
                                                                  1,645 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,219 mL
                                                                  1,540 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 451 (450 - 451) mL
   Vt (Spontaneous): 475 (352 - 487) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: Agitated
   PIP: 10 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/35/121/23/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 346
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   76 K/uL
   190 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.5 mEq/L
   25 mg/dL
   107 mEq/L
   137 mEq/L
   26.0 %
   11.2 K/uL
        [image002.jpg]
                            [**2132-1-3**]  02:57 PM
                            [**2132-1-3**]  08:19 PM
                            [**2132-1-4**]  02:25 AM
                            [**2132-1-4**]  04:50 AM
                            [**2132-1-4**]  09:58 AM
                            [**2132-1-4**]  02:08 PM
                            [**2132-1-4**]  02:33 PM
                            [**2132-1-4**]  09:39 PM
                            [**2132-1-5**]  01:12 AM
                            [**2132-1-5**]  03:44 AM
   WBC
   5.5
   7.6
   9.4
   17.0
   11.2
   Hct
   24.3
   25.1
   25.1
   27.3
   26.0
   Plt
   34
   64
   46
   91
   145
   76
   Cr
   0.7
   0.7
   0.6
   TCO2
   25
   24
   27
   24
   Glucose
   149
   114
   143
   190
   Other labs: PT / PTT / INR:14.5/27.8/1.3, ALT / AST:58/32, Alk Phos / T
   Bili:91/6.7, Differential-Neuts:94.9 %, Band:3.0 %, Lymph:3.1 %,
   Mono:1.9 %, Eos:0.1 %, Fibrinogen:552 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:205 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.1
   mg/dL
   Fluid analysis / Other labs: Tobra peak  - 7
   Tobra trough - 3.7
   vanco - 31
   Imaging: CXR not meaningfully changed from eysterday
   Microbiology: Blood - GNRs
   Tissue - GNRs, enterococcus
   Assessment and Plan
   56-year-old woman with
          Septic shock
 improving
          Empyema
   o         Appreciate ID
s help
   o         Continue present antibiotics; discuss tobra dosing with ID
   o         Will eventually pursue echo to exclude endocarditis
          Unstable AFib now back in sinus
   o         Will discuss with cardiology
   o         Would favor continuing amiodarone today given marked prior
   instability.  [**Month (only) 8**] be reasonable to discontinue in the next day or two
   but will need daily re-evaluation.
          Respiratory failure
   o         Leave intubated today given recent marked rhythm instability
          Impaired skin integrity
   o         Blistering is worrisome.  Consult dermatology.
          Complicated oncologic and immunologic history
   o         Appreciate BMTs help.
          Chest tubes with small leak
   o         Appreciate BMT
s help.
          Malnutrition, severe
   o         Tube feeds today; watch for malabsorption given GVHD
          GVHD esp. liver (quite high bili)
   o         Continue present immunsuppression
   o         Continue stress-dose steroids for now.  [**Month (only) 8**] be reasonable to
   wean beginning tomorrow.
          Heme
   o         Coagulopathy
   o         thrombocytopenia
   o         anemia
          Keep plt > 60 given hemothorax, per BMT.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2132-1-4**] 04:16 PM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2132-1-3**] 12:46 AM
   Multi Lumen - [**2132-1-3**] 09:21 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  50 minutes
   Patient is critically ill

2132-01-06 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2132-1-5**] 06:00 PM
 BLOOD CULTURED - At [**2132-1-5**] 06:15 PM
   -started lopressor [**Hospital1 **] to treat afib
   -derm consult: likely skin changes [**2-17**] IV extravasation (unlikely to be
   GVHD or pemphigus)
   -episode of hypothermia in evening, drew blood cx and put on low bear
   hugger
   -per ID: d/c linezolid, tobramycin and continue meropenem
   Allergies:
   Cefepime
   Rash;
   Aztreonam
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2132-1-3**] 09:00 AM
   Piperacillin - [**2132-1-3**] 01:40 PM
   Vancomycin - [**2132-1-4**] 04:30 AM
   Caspofungin - [**2132-1-5**] 09:30 AM
   Linezolid - [**2132-1-5**] 12:30 PM
   Tobramycin - [**2132-1-5**] 02:15 PM
   Acyclovir - [**2132-1-6**] 12:00 AM
   Meropenem - [**2132-1-6**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2132-1-5**] 01:45 PM
   Midazolam (Versed) - [**2132-1-5**] 08:15 PM
   Other medications:
   Senna
   Colace
   Versed
   Metoprolol
   Fentanyl
   Hydrocortisone
   Mycophenolate
   Meropenem
   Chlorhexidine
   Protonix
   Acyclovir
   Caspofungin
   ISS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-6**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 74 (60 - 110) bpm
   BP: 151/86(113) {90/56(67) - 165/100(120)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.5 kg (admission): 41 kg
    CVP: 6 (3 - 8)mmHg
   Total In:
                                                                  4,704 mL
                                                                    571 mL
   PO:
   TF:
                                                                    201 mL
                                                                     65 mL
   IVF:
                                                                  4,443 mL
                                                                    506 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                  1,255 mL
   Urine:
                                                                  1,475 mL
                                                                  1,185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,049 mL
                                                                   -684 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 451) mL
   Vt (Spontaneous): 665 (450 - 665) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 19
   PIP: 11 cmH2O
   Plateau: 10 cmH2O
   Compliance: 90.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/37/123/24/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 351
   Physical Examination
   Gen: cachectic, ill appearing, intubated, but opening eyes to voice
   HEENT: Dry mucus membranes, JVP not elevated.
   Heart: Tachy. Normal S1 and S2. No appreciable MRG.
   Lungs:  Diffuse rhonchi in anterior lung fields, decreased BS LLL
   Abdomen: Soft, nontender. No appreciable mass +BS
   Ext: 1+ bilateral lower extremity edema. Warm to touch. Upper ext
   raped. Large ecchomyosis bl antecubital areas with lysed bullous
   Neuro: intubated and sedated, opening eyes to voice, moving ext.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   9.3 g/dL
   84 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.0 mEq/L
   28 mg/dL
   111 mEq/L
   140 mEq/L
   25.0 %
   7.8 K/uL
        [image002.jpg]
   US coarse liver echotexture, 2 small simple cysts. No bilious dilation.
   Alb 1.7
   CXR 12/20 L lung clear, small R pleural effusion, minimal if any R PTX
   Micro:
   [**12-31**] stool neg
   CMV neg
   [**1-2**] hemothorax tissue and fluid : GNR 1, GNR 2, enterococcus x2
   Bronch: enterobacter aerogenes
   [**1-2**] Urine: Klebsiella oxytoin, morganella morganii
   [**1-3**] blood Klebsiella oxytoca and enterobacter cloacae
   Blood 12/19, [**1-5**] pending
                            [**2132-1-4**]  04:50 AM
                            [**2132-1-4**]  09:58 AM
                            [**2132-1-4**]  02:08 PM
                            [**2132-1-4**]  02:33 PM
                            [**2132-1-4**]  09:39 PM
                            [**2132-1-5**]  01:12 AM
                            [**2132-1-5**]  03:44 AM
                            [**2132-1-5**]  03:51 PM
                            [**2132-1-5**]  03:55 PM
                            [**2132-1-6**]  03:30 AM
   WBC
   7.6
   9.4
   17.0
   11.2
   10.0
   7.8
   Hct
   25.1
   25.1
   27.3
   26.0
   25.6
   25.0
   Plt
   64
   46
   91
   145
   76
   51
   42
   Cr
   0.7
   0.6
   0.8
   TCO2
   27
   24
   24
   24
   Glucose
   114
   143
   190
   84
   Other labs: PT / PTT / INR:14.5/27.8/1.3, ALT / AST:60/38, Alk Phos / T
   Bili:120/4.9, Differential-Neuts:94.9 %, Band:3.0 %, Lymph:3.1 %,
   Mono:1.9 %, Eos:0.1 %, Fibrinogen:552 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:1.7 g/dL, LDH:215 IU/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   56-year-old woman with a history of [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3327**] chromosome ALL s/p
   allogeneic transplant, s/p DLI (day 121) with subsequent severe GVHD
   underwent thoracotomy for empyema and found to be in septic shock.
   .
   # Septic shock:  Most likely source is empyema and bacteremia.  Also
   has urine and BAL with multiple organisms.  History of VRE UTI.
   Currently maintaining good urine output.
   - f/u Cx and sensitivities
   - by ID [**Last Name (NamePattern4) 3394**] linezolid and tobramycin yesterday
   -vanco also [**Last Name (LF) 3394**], [**First Name3 (LF) 124**] confirm this is correct
   - continue meropenem, caspofungin, and acyclovir prophylaxis, sent
   beta-glucan and galactomannan, f/u results
   - continue hydrocortisone (stress dose given chronic steroids)
   - IVF for MAP > 65,  off pressors at this time
   - appreciate ID following/recs
   .
   Culture data (as of [**1-5**]):
   [**12-31**] Stool: negative for microsporidium, clyclospora, c.diff,
   ova/parasites
   [**1-2**] Hemothrax: Enterococcus
   [**1-2**] Urine: Klebsiella oxytoca, Morganella morgani
   [**1-2**] Rind: Enterobacter cloacae
   [**1-3**] Bronchial washing: Enterobacter aerogenes
   [**1-3**] Blood cx: Klebsiella oxytoca, Enterobacter cloacae
   MRSA negative
   .
   # Atrial fibrillation:  Her rapid ventricular rate is secondary to
   stress due to infection.  She appears to be intravascularly volume
   down.  She also has pain which is contributing RVR. S/p cardioversion
   - weaned esmolol
   - IVF to address hypotension/ sepsis
   - completed amio IV load with gtt, [**Month/Year (2) 3394**] this am. Started Lopressor
   instead. Plan to reload with amio if converts
   - appreciate cardiology following/recs
   .
   # Right lung empyema: s/p thoracotomy and 3 chest tubes, ? two with air
   leak.
   - appreciate thoracic [**Doctor First Name 91**] following and recs. They are not opposed to
   extubation.
   - antibiotics as above
   - appreciate ID recs
   .
   # GVHD:  Patient is found to have severe graft vs host disease.  Tbili
   decreasing this AM but rest of LFTs uptrending
   - appreciate BMT recs.
   - continue mycophenolate mofetil, will ask about checking levels?
   - continue hydrocortisone
   - appreciated GI recs regarding elevated bili
   # skin lesions
 Derm consult appreciated, felt consistant with
   multiple blood draws and thin skin [**2-17**] steroids
   -          unlikely GVHD
   -          continue wound care
   .
   # Thrombocytopenia:  Most likely due to GVHD vs. bone marrow
   suppression secondary to sepsis.
   -          Plt transfusion to 60 000 per BMT recs
   -          s/p transfusion this am, check post transfusion value
   .
   # ALL: Appreciate BMT recs
   .
   # FEN: Trophic tube feeds started today to keep gut motility (? Gut
   edema with GVHD).  ? Nutrition consult for TPN.  Replete lytes prn.
   .
   # Prophylaxis: PPI. Pneumoboots given thrombocytopenia., started BM reg
   .
   # Access: IJ and Aline
   .
   # Contact:  HCP [**Name (NI) 3369**] [**Name (NI) 3370**], Husband, [**Telephone/Fax (1) 3371**]
   .
   # Code: Full Code
   .
   # Dispo: ICU for now
 HEMOTHORAX
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CANCER (MALIGNANT NEOPLASM), OTHER
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2132-1-4**] 04:16 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-1-3**] 12:46 AM
   Multi Lumen - [**2132-1-3**] 09:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-01-07 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   BMT recs, not to change steroid or immunosuppressive doses
   -plan to extubate today, cleared with throacics. But not tolerating
   just sedation boluses overnight. Restarted IV sedation with goal to
   wean in am and hold TF at 4am
   -tolearated CPAP 5/5
   -plts 95 (> 60) post-transfusion
   Allergies:
   Cefepime
   Rash;
   Aztreonam
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2132-1-5**] 12:30 PM
   Tobramycin - [**2132-1-5**] 02:15 PM
   Caspofungin - [**2132-1-6**] 09:30 AM
   Acyclovir - [**2132-1-6**] 11:41 PM
   Meropenem - [**2132-1-7**] 01:47 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 60 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2132-1-6**] 10:45 AM
   Midazolam (Versed) - [**2132-1-7**] 03:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-7**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 95 (65 - 98) bpm
   BP: 146/91(114) {96/60(73) - 176/110(138)} mmHg
   RR: 12 (8 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.5 kg (admission): 41 kg
    CVP: 3 (2 - 5)mmHg
   Total In:
                                                                  2,863 mL
                                                                    332 mL
   PO:
   TF:
                                                                    340 mL
                                                                    115 mL
   IVF:
                                                                  2,049 mL
                                                                    217 mL
   Blood products:
                                                                    199 mL
   Total out:
                                                                  2,940 mL
                                                                    380 mL
   Urine:
                                                                  2,840 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -77 mL
                                                                    -48 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 451 (451 - 451) mL
   Vt (Spontaneous): 642 (178 - 653) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 30
   PIP: 11 cmH2O
   Plateau: 10 cmH2O
   SpO2: 97%
   ABG: 7.40/38/134/23/0
   Ve: 10.5 L/min
   PaO2 / FiO2: 383
   Physical Examination
   Gen: cachectic, ill appearing, intubated, but opening eyes to voice and
   responding to qts
   HEENT: Dry mucus membranes, JVP not elevated, scleral icterus.
   Heart: Tachy. Normal S1 and S2. No appreciable MRG.
   Lungs:  Diffuse rhonchi in anterior lung fields, decreased BS LLL,
   wheeze on R side c/w CT leak
   Abdomen: Soft, nontender. No appreciable mass +BS
   Ext: 1+ bilateral lower extremity edema. Warm to touch. Upper
   extremities w/ ecchomyosis bl antecubital areas with lysed bullous,
   dressings c/d/i.
   Neuro: intubated and sedated, opening eyes to voice, moving ext.
   symmetrically.
   Labs / Radiology
   99 K/uL
   11.6 g/dL
   143 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   32 mg/dL
   110 mEq/L
   140 mEq/L
   31.1 %
   9.9 K/uL
        [image002.jpg]
                            [**2132-1-5**]  03:44 AM
                            [**2132-1-5**]  03:51 PM
                            [**2132-1-5**]  03:55 PM
                            [**2132-1-6**]  03:30 AM
                            [**2132-1-6**]  10:02 AM
                            [**2132-1-6**]  11:01 AM
                            [**2132-1-6**]  03:24 PM
                            [**2132-1-6**]  03:56 PM
                            [**2132-1-7**]  03:31 AM
                            [**2132-1-7**]  03:32 AM
   WBC
   11.2
   10.0
   7.8
   11.4
   9.9
   Hct
   26.0
   25.6
   25.0
   31.3
   31.1
   Plt
   76
   51
   42
   95
   106
   99
   Cr
   0.6
   0.8
   0.7
   0.7
   TCO2
   24
   24
   22
   25
   24
   Glucose
   190
   84
   134
   143
   Other labs: PT / PTT / INR:12.6/21.9/1.1, ALT / AST:88/63, Alk Phos / T
   Bili:311/5.8, Differential-Neuts:94.9 %, Band:3.0 %, Lymph:3.1 %,
   Mono:1.9 %, Eos:0.1 %, Fibrinogen:552 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:1.7 g/dL, LDH:274 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   56-year-old woman with a history of [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3327**] chromosome ALL s/p
   allogeneic transplant, s/p DLI (day 121) with subsequent severe GVHD
   underwent thoracotomy for empyema and found to be in septic shock.
   .
   # Septic shock:  Most likely source is Enterococcus and GNR empyema and
   GNR bacteremia.  Also has urine and BAL with multiple organisms,
   although all organisms are pan-sensitive.  History of VRE UTI.
   Currently maintaining good urine output and remains hemodynamically
   stable. ID is following with recs while pending Cx develop.
   - f/u Cx and sensitivities
   - continue meropenem (day 5) for 2 week course, caspofungin, and
   acyclovir prophylaxis
   - continue hydrocortisone (stress dose given chronic steroids)
   - IVF for MAP > 65,  off pressors at this time
   - appreciate ID recs
   - f/u thoracic recs re: CT (currently to suction)
   .
   Culture data (as of [**1-6**]):
   [**12-31**] Stool: negative for microsporidium, clyclospora, c.diff,
   ova/parasites
   [**1-2**] Hemothrax: Enterococcus
   [**1-2**] Urine: Klebsiella oxytoca, Morganella morgani
   [**1-2**] Rind: Enterobacter cloacae
   [**1-3**] Bronchial washing: Enterobacter aerogenes
   [**1-3**] Blood cx: Klebsiella oxytoca, Enterobacter cloacae
   MRSA negative
   .
   # Atrial fibrillation:  Today reverted back to afib with RVR during
   rounds, in the setting of SBTs and complaint of pain and tachypnea. Her
   rate improved quickly with going back to PS 10/5 and decreasing
   stimuli. It is likely a combination of underlying lunch injury and
   pain, which has been a consistent complaint despite our using sedation.
   Currently she is being treated with esmolol and we are monitoring. If
   she reverts back to high rate afib, will reload with amiodarone. Her
   arrhythmia was not in the setting of a fever, and resolved fairly
   quickly, so it is not likely to be due to worsening of her underlying
   infection. We will also start a fentanyl patch to adequately cover her
   underlying pain, in hopes that this will allow us to move towards
   extubation again tomorrow. She is also receiving 1L NS for volume
   resuscitation.   (FYI: S/p cardioversion on thoracic service on first
   reversion to atrial fib).
   - titrate esmolol
   - 1L NS IVF
   - if converts to rapid afib w/RVR reload amio
   - hold off on weaning vent at this time; retry to wean PS this
   afternoon/evening if hemodynamically stable
   .
   # Right lung empyema: s/p thoracotomy and 3 chest tubes,  two with
   known air leak. Thoracic service is following and is on board with
   extubation when tolerated. Drainage appears serosangiunous.
   - appreciate thoracic [**Doctor First Name 91**] following and recs.
   - antibiotics as above
   - appreciate ID recs
   .
   # GVHD:  Patient is found to have severe graft vs host disease of both
   liver and GI tract.
   - appreciate BMT recs.
   - no changes to her regimen at this time
   - continue hydrocortisone
   - follow LFTs
   # skin lesions
 wound care following, appreciate their recs.
   -          unlikely GVHD
   -          continue wound care
   .
   # Thrombocytopenia:  Most likely due to GVHD vs. bone marrow
   suppression secondary to sepsis.
   -          Plt transfusion to 60 000 per BMT recs
   .
   # ALL: Appreciate BMT recs
   .
   # FEN: continue her TFs.  Replete lytes prn.
   .
   # Prophylaxis: PPI. Pneumoboots given thrombocytopenia., BM regimen
   .
   # Access: LIJ and Aline
   .
   # Contact:  HCP [**Name (NI) 3369**] [**Name (NI) 3370**], Husband, [**Telephone/Fax (1) 3371**]
   .
   # Code: Full Code
   .
   # Dispo: ICU for now
 HEMOTHORAX
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CANCER (MALIGNANT NEOPLASM), OTHER
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-1-3**] 12:46 AM
   Multi Lumen - [**2132-1-3**] 09:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-01-08 05:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2132-1-7**] 11:32 AM
   - changed IV steroids to Solumedrol 20mg [**Hospital1 **] in attempt to wean
   - tachycardic/hypertensive at night, increased metoprolol to 37.5mg TID
   with good effect
   - started tube feeds
   - holding amiodarone for now
   Allergies:
   Cefepime
   Rash;
   Aztreonam
   Rash;
   Last dose of Antibiotics:
   Linezolid - [**2132-1-5**] 12:30 PM
   Tobramycin - [**2132-1-5**] 02:15 PM
   Caspofungin - [**2132-1-7**] 08:53 AM
   Acyclovir - [**2132-1-7**] 11:54 PM
   Meropenem - [**2132-1-8**] 01:59 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-1-7**] 08:53 AM
   Fentanyl - [**2132-1-7**] 12:44 PM
   Midazolam (Versed) - [**2132-1-8**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-8**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 78 (74 - 166) bpm
   BP: 136/82(104) {98/62(75) - 170/105(128)} mmHg
   RR: 8 (0 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.5 kg (admission): 41 kg
    CVP: 6 (6 - 7)mmHg
   Total In:
                                                                  3,003 mL
                                                                    494 mL
   PO:
   TF:
                                                                    303 mL
                                                                    166 mL
   IVF:
                                                                  2,590 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                  1,030 mL
   Urine:
                                                                  3,100 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -207 mL
                                                                   -536 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 594 (461 - 623) mL
   PS : 5 cmH2O
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 28
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.47/37/164/27/4
   Ve: 4.6 L/min
   PaO2 / FiO2: 469
   Physical Examination
   Gen: cachectic, ill appearing, intubated, but opening eyes to voice and
   responding to qts
   HEENT: Dry mucus membranes, JVP not elevated, scleral icterus.
   Heart: Tachy. Normal S1 and S2. No appreciable MRG.
   Lungs:  Diffuse rhonchi in anterior lung fields, decreased BS LLL,
   wheeze on R side c/w CT leak
   Abdomen: Soft, nontender. No appreciable mass +BS
   Ext: 1+ bilateral lower extremity edema. Warm to touch. Upper
   extremities w/ ecchomyosis bl antecubital areas with lysed bullous,
   dressings c/d/i.
   Neuro: intubated and sedated, opening eyes to voice, moving ext.
   symmetrically.
   Labs / Radiology
   45 K/uL
   10.8 g/dL
   99 mg/dL
   0.6 mg/dL
   27 mEq/L
   2.5 mEq/L
   33 mg/dL
   108 mEq/L
   142 mEq/L
   29.5 %
   9.4 K/uL
        [image002.jpg]
                            [**2132-1-6**]  03:30 AM
                            [**2132-1-6**]  10:02 AM
                            [**2132-1-6**]  11:01 AM
                            [**2132-1-6**]  03:24 PM
                            [**2132-1-6**]  03:56 PM
                            [**2132-1-7**]  03:31 AM
                            [**2132-1-7**]  03:32 AM
                            [**2132-1-7**]  09:21 AM
                            [**2132-1-8**]  03:00 AM
                            [**2132-1-8**]  03:32 AM
   WBC
   7.8
   11.4
   9.9
   9.4
   Hct
   25.0
   31.3
   31.1
   29.5
   Plt
   42
   95
   106
   99
   45
   Cr
   0.8
   0.7
   0.7
   0.6
   TCO2
   24
   22
   25
   24
   24
   28
   Glucose
   84
   134
   143
   99
   Other labs: PT / PTT / INR:12.6/21.9/1.1, ALT / AST:99/76, Alk Phos / T
   Bili:427/5.1, Differential-Neuts:94.9 %, Band:3.0 %, Lymph:3.1 %,
   Mono:1.9 %, Eos:0.1 %, Fibrinogen:552 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:1.7 g/dL, LDH:329 IU/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   56-year-old woman with a history of [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3327**] chromosome ALL s/p
   allogeneic transplant, s/p DLI (day 121) with subsequent severe GVHD
   underwent thoracotomy for empyema and found to be in septic shock.
   .
   # Septic shock:  Enterococcus and GNR empyema and GNR bacteremia.  Also
   has urine and BAL with multiple organisms, although all organisms are
   pan-sensitive.  History of VRE UTI.  Currently maintaining good urine
   output and remains hemodynamically stable, with intermittent episodes
   of hypertention likely secondary to pain. Has been on PS 5/5 and is
   likely ready to be extubated today.
   - continue meropenem (day 6) for 2 week course, caspofungin, and
   acyclovir prophylaxis
   - off pressors at this time
   - appreciate ID recs
   - f/u thoracic recs re: CT currently on water seal
   -likely extubate today
   .
   Culture data (as of [**1-8**]):
   [**12-31**] Stool: negative for microsporidium, clyclospora, c.diff,
   ova/parasites
   [**1-2**] Hemothrax: Enterococcus
   [**1-2**] Urine: Klebsiella oxytoca, Morganella morgani
   [**1-2**] Rind: Enterobacter cloacae
   [**1-3**] Bronchial washing: Enterobacter aerogenes
   [**1-3**] Blood cx: Klebsiella oxytoca, Enterobacter cloacae
   MRSA negative
   .
   # Atrial fibrillation:  Intermittent episodes of afib with RVR and
   hypertension, in the setting of SBTs and complaint of pain and
   tachypnea. It is likely a combination of underlying lung injury and
   pain. Currently on lopressor 50mg tid with good control. If she reverts
   back to high rate afib, will reload with amiodarone. Fentanyl patch was
   started to adequately cover her underlying pain, and ativan prn for
   anxiety. (FYI: S/p cardioversion on thoracic service on first reversion
   to atrial fib).
   - IVF first then esmolol prn if reverts back
   - if converts to rapid afib w/RVR reload amio
   - will retry to wean off vent today and extubate
   .
   # Right lung empyema: s/p thoracotomy and 3 chest tubes, two with known
   air leak. Thoracic service is following and is on board with extubation
   when tolerated. CTs were placed to water seal this morning. If CXR
   looks unchanged will retry SBTs this afternoon with plan to extubate.
   - appreciate thoracic [**Doctor First Name 91**] following and recs.
   - antibiotics as above
   .
   # GVHD:  Patient is found to have severe graft vs host disease of both
   liver and GI tract. BMT recommended switching from IV hydrocortisone to
   solumedrol [**Hospital1 **]. Her LFTs continue to increase which may be due to GVHD
   vs. acalculous cholecystitis vs. other GI etiology. At this time we
   will continue following her LFTs. If they continue to increase will
   consider RUQ US tomorrow and increasing steroid dose.
   - appreciate BMT recs.
   - solumedrol [**Hospital1 **]
   - trend LFTs
   # skin lesions
 wound care and dermatology following, appreciate their
   recs.
   -          unlikely GVHD
   -          continue wound care
   .
   # Thrombocytopenia:  Most likely due to GVHD vs. bone marrow
   suppression secondary to sepsis. Received plt transfusion for plt 45
   this AM.
   -          Plt transfusion to 60 000 per BMT recs
   .
   # ALL: Appreciate BMT recs
   .
   # FEN: TF on hold for extubation.  On K, Mg scales.
   .
   # Prophylaxis: PPI. Pneumoboots given thrombocytopenia., BM regimen
   .
   # Access: LIJ and Aline. PICC placement today/tomorrow for long-term
   abx
   .
   # Contact:  HCP [**Name (NI) 3369**] [**Name (NI) 3370**], Husband, [**Telephone/Fax (1) 3371**]
   .
   # Code: Full Code
   .
   # Dispo: ICU for now, possible extubation today.
 ATRIAL FIBRILLATION (AFIB)
 HEMOTHORAX
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CANCER (MALIGNANT NEOPLASM), OTHER
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-1-3**] 12:46 AM
   Multi Lumen - [**2132-1-3**] 09:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-01-09 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -extubated
   -c/o all over pain, bolus fentanyl
   -BMT- start solumedrol 50mg [**Hospital1 **]
   -increased fentanyl patch dose
   -CXR collapsed R lung, chest tubes to suction
   Allergies:
   Cefepime
   Rash;
   Aztreonam
   Rash;
   Last dose of Antibiotics:
   Caspofungin - [**2132-1-7**] 08:53 AM
   Acyclovir - [**2132-1-9**] 12:30 AM
   Meropenem - [**2132-1-9**] 02:09 AM
   Infusions:
   Fentanyl - 60 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2132-1-8**] 12:00 PM
   Hydralazine - [**2132-1-8**] 02:13 PM
   Fentanyl - [**2132-1-8**] 08:40 PM
   Metoprolol - [**2132-1-9**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-9**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96.1
   HR: 76 (66 - 100) bpm
   BP: 130/76(95) {121/70(87) - 174/113(137)} mmHg
   RR: 13 (8 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.5 kg (admission): 41 kg
    CVP: 247 (247 - 247)mmHg
   Total In:
                                                                  2,196 mL
                                                                    377 mL
   PO:
   TF:
                                                                    166 mL
   IVF:
                                                                  1,572 mL
                                                                    377 mL
   Blood products:
                                                                    208 mL
   Total out:
                                                                  4,150 mL
                                                                  1,110 mL
   Urine:
                                                                  4,100 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,954 mL
                                                                   -733 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Set): 451 (451 - 451) mL
   Vt (Spontaneous): 270 (270 - 596) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.49/38/143/30/6
   Ve: 9.6 L/min
   PaO2 / FiO2: 409
   Physical Examination
   GEN: awake and alert, extubated
   HEENT: soft, raspy voice; MM dry, slight scleral icterus
   CV:RRR S1S2
   PULM; diminished bilateral breath sounds
   ABD: soft, nondistended, nontender +bs
   EXT: warm, well pefused, trace bipedal edema
   Labs / Radiology
   63 K/uL
   11.3 g/dL
   93 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   29 mg/dL
   105 mEq/L
   139 mEq/L
   30.7 %
   11.5 K/uL
        [image002.jpg]
                            [**2132-1-8**]  03:00 AM
                            [**2132-1-8**]  03:32 AM
                            [**2132-1-8**]  01:30 PM
                            [**2132-1-8**]  04:28 PM
                            [**2132-1-8**]  05:30 PM
                            [**2132-1-8**]  08:26 PM
                            [**2132-1-9**]  12:46 AM
                            [**2132-1-9**]  03:55 AM
                            [**2132-1-9**]  04:06 AM
                            [**2132-1-9**]  06:21 AM
   WBC
   9.4
   10.6
   11.5
   Hct
   29.5
   31.5
   30.7
   Plt
   45
   84
   90
   63
   Cr
   0.6
   0.6
   0.5
   TCO2
   28
   26
   28
   32
   28
   30
   Glucose
   99
   142
   93
   Other labs: PT / PTT / INR:12.6/21.9/1.1, ALT / AST:123/81, Alk Phos /
   T Bili:426/6.0, Differential-Neuts:94.9 %, Band:3.0 %, Lymph:3.1 %,
   Mono:1.9 %, Eos:0.1 %, Fibrinogen:552 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.4 g/dL, LDH:364 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   56-year-old woman with a history of [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3327**] chromosome ALL s/p
   allogeneic transplant, s/p DLI (day 121) with subsequent severe GVHD
   underwent thoracotomy for empyema and found to be in septic shock.
   .
   # Septic shock:  Enterococcus and GNR empyema and GNR bacteremia,
   treated with meropenem (day 7 of 2week course). Also has urine and BAL
   with multiple organisms, although all organisms are pan-sensitive.
   History of VRE UTI Hemodynamically stable, extubated, and
   autodiuresing. Given collapsed lung, chest tubes put back on suction
   for now, repeat CXR pending. Thoracic service following.
   -continue meropenem, caspofungin, and acyclovir prophylaxis
   - f/u thoracic recs
   -support breathing with pulmonary toilet prn
   .
   Culture data
   [**12-31**] Stool: negative for microsporidium, clyclospora, c.diff,
   ova/parasites
   [**1-2**] Hemothrax: Enterococcus
   [**1-2**] Urine: Klebsiella oxytoca, Morganella morgani
   [**1-2**] Rind: Enterobacter cloacae
   [**1-3**] Bronchial washing: Enterobacter aerogenes
   [**1-3**] Blood cx: Klebsiella oxytoca, Enterobacter cloacae
   MRSA negative
   .
   # Transaminitis: Likely secondary to GVHD however cannot rule out
   acalculous cholecystitis given prolonged abx use and ICU stay.
   Nontender to palp over RUQ this AM, although slight icterus on exam.
   -RUQ U/S
   -BMT recs re: steroids
   .
   # Atrial fibrillation:  Intermittent episodes of afib with RVR and
   hypertension, in the setting of SBTs and complaint of pain and
   tachypnea. It is likely a combination of underlying lung injury and
   pain. Given she is unable to take PO will treat with standing low-dose
   lopressor IV until PO route established. For pain, she is off fentanyl
   drip and this time and mainly covered by fentanyl patch and bolus
   fentanyl prn. Once stable, would consider pain, palliative care consult
   to provide a good pain regimen for the long-term.  She is also quite
   anxious, which we can treat with low dose ativan or klonopin (note:
   very cachectic and low RR, caution not to oversedate. Also with
   elevated compromised liver function, avoid long-acting agents)
   - IV lopressor with goal HR<90s
   -fentanyl patch for pain
   -ativan prn anxiety
   - if converts to rapid afib w/RVR reload amio
   -prn esmolol for elevated SBPs
   .
   # Right lung empyema: s/p thoracotomy and 3 chest tubes, now with
   collapsed lung, CT back on suction. Repeat CXR pending to monitor for
   resolution.
   - appreciate thoracic [**Doctor First Name 91**] following and recs.
   - antibiotics as above
   .
   # GVHD:  Patient is found to have severe graft vs host disease of both
   liver and GI tract. On IV solumedrol [**Hospital1 **]. Her LFTs continue to increase
   which may be due to GVHD vs. acalculous cholecystitis as above. No BMs
   for several days which is inconsistent with GVHD of the gut. Once PO
   route is established (hopefully with Dobhoff) will start low rate TF
   and monitor for improvement in gut motility.
   - appreciate BMT recs.
   - solumedrol [**Hospital1 **]
   - trend LFTs
   -RUQ US
   -Dobhoff placement
   # Skin wounds
 wound care and dermatology following, appreciate their
   recs.
   -          continue wound care
   .
   # Thrombocytopenia:  Most likely due to GVHD vs. bone marrow
   suppression secondary to sepsis. Received plt transfusion yesterday.
   Today stable at 63. Will not transfuse at this time.
   -          Plt transfusion to 60 000 per BMT recs
   .
   # ALL: Appreciate BMT recs. Continue cellcept.
   .
   # FEN: Pt is very cachectic. Hope to place Dobhoff today and start PO
   feeds to improve GI motility. Nutrition consult to ensure she is
   getting appropriate calories.  On K, Mg scales.
   .
   # Prophylaxis: PPI. Pneumoboots given thrombocytopenia., BM regimen
   .
   # Access: LIJ and Aline. PICC placement would be ideal for long-term
   abx, however known DVT in RUE. Would US first before PICC placement.
   This will also allow us to remove LIJ.
   .
   # Contact:  HCP [**Name (NI) 3369**] [**Name (NI) 3370**], Husband, [**Telephone/Fax (1) 3371**]
   .
   # Code: Full Code
   .
   # Dispo: ICU for now, possible extubation today.
 HYPERTENSION, BENIGN
 HEMOTHORAX
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CANCER (MALIGNANT NEOPLASM), OTHER
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-1-3**] 12:46 AM
   Multi Lumen - [**2132-1-3**] 09:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   ERROR:
   Dispo: ICU care for now (pt already extubated yesterday)
   ------ Protected Section Addendum Entered By:[**Name (NI) 3266**] [**Name8 (MD) 3213**], MD
   on:[**2132-1-9**] 11:42 ------

2132-01-10 05:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2132-1-9**] 11:30 AM
   Dobhoff placed, started TFs
   Onc recs: Cont Cellcept [**Pager number **] [**Hospital1 **], Solumedrol 20 [**Hospital1 **]. If increased LFts
   tomorrow ([**1-10**]), increase cellcept to 1000mg [**Hospital1 **]; check prealbumin,
   TFs ok
   Had RUQ US: No biliary ductal dilatation. No e/o cholecystitis
   Allergies:
   Cefepime
   Rash;
   Aztreonam
   Rash;
   Last dose of Antibiotics:
   Caspofungin - [**2132-1-7**] 08:53 AM
   Acyclovir - [**2132-1-10**] 12:00 AM
   Meropenem - [**2132-1-10**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-1-9**] 08:38 AM
   Lorazepam (Ativan) - [**2132-1-9**] 06:17 PM
   Metoprolol - [**2132-1-9**] 08:32 PM
   Fentanyl - [**2132-1-10**] 04:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-10**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 79 (72 - 90) bpm
   BP: 139/80(101) {96/57(70) - 147/85(107)} mmHg
   RR: 14 (9 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.5 kg (admission): 41 kg
    CVP: 247 (247 - 247)mmHg
   Total In:
                                                                  1,459 mL
                                                                    410 mL
   PO:
   TF:
                                                                     49 mL
   IVF:
                                                                  1,459 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  3,470 mL
                                                                    470 mL
   Urine:
                                                                  3,380 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,011 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.49/38/143/30/6
   Physical Examination
   GEN: awake and alert, extubated
   HEENT: soft, raspy voice, very slightly improved from yesterday; MM
   dry, slight scleral icterus
   CV:RRR S1S2
   PULM; CTA on L, diminished  on R breath sounds, pain with deep
   inspiration. Chest tubes on suction, no air-leak.
   ABD: soft, nondistended, nontender +bs
   EXT: warm, well pefused, significant 2+ spongy bil leg edema, some UE
   edema as well.
   NUERO: A+O x 3, moving all extremities,
   Labs / Radiology
   26 K/uL
   10.1 g/dL
   128 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.5 mEq/L
   25 mg/dL
   102 mEq/L
   137 mEq/L
   28.1 %
   7.3 K/uL
        [image002.jpg]
                            [**2132-1-8**]  03:32 AM
                            [**2132-1-8**]  01:30 PM
                            [**2132-1-8**]  04:28 PM
                            [**2132-1-8**]  05:30 PM
                            [**2132-1-8**]  08:26 PM
                            [**2132-1-9**]  12:46 AM
                            [**2132-1-9**]  03:55 AM
                            [**2132-1-9**]  04:06 AM
                            [**2132-1-9**]  06:21 AM
                            [**2132-1-10**]  03:03 AM
   WBC
   10.6
   11.5
   7.3
   Hct
   31.5
   30.7
   28.1
   Plt
   84
   90
   63
   26
   Cr
   0.6
   0.5
   0.4
   TCO2
   28
   26
   28
   32
   28
   30
   Glucose
   142
   93
   128
   Other labs: PT / PTT / INR:12.6/21.9/1.1, ALT / AST:124/87, Alk Phos /
   T Bili:444/5.1, Differential-Neuts:94.9 %, Band:3.0 %, Lymph:3.1 %,
   Mono:1.9 %, Eos:0.1 %, Fibrinogen:552 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.3 g/dL, LDH:307 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.1
   mg/dL
   CXR: Pending
   Assessment and Plan
   56-year-old woman with a history of [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3327**] chromosome ALL s/p
   allogeneic transplant, s/p DLI (day 121) with subsequent severe GVHD
   underwent thoracotomy for empyema and found to be in septic shock.
   .
   # Septic shock:  Enterococcus and GNR empyema and GNR bacteremia,
   treated with meropenem (day 8 of 2week course). Also has urine and BAL
   with multiple organisms, although all organisms are pan-sensitive.
   History of VRE UTI. Hemodynamically stable, extubated, and
   autodiuresing. Given collapsed lung, chest tubes put back on suction
   for now, repeat CXR showed improved PTX. No air leak. Thoracic service
   following.
   -continue meropenem, caspofungin, and acyclovir prophylaxis
   - f/u thoracic recs
   -support breathing with pulmonary toilet prn
   - f/u repeat cxr
   .
   Culture data
   [**12-31**] Stool: negative for microsporidium, clyclospora, c.diff,
   ova/parasites
   [**1-2**] Hemothrax: Enterococcus
   [**1-2**] Urine: Klebsiella oxytoca, Morganella morgani
   [**1-2**] Rind: Enterobacter cloacae
   [**1-3**] Bronchial washing: Enterobacter aerogenes
   [**1-3**] Blood cx: Klebsiella oxytoca, Enterobacter cloacae
   MRSA negative
   .
   # Transaminitis: Likely secondary to GVHD however cannot rule out
   acalculous cholecystitis given prolonged abx use and ICU stay.
   Nontender to palp over RUQ this AM, although slight icterus on exam.
   RUQ U/S- negative for cholecystitis. LFTs stable today. No change in
   steroid/cellcept regimen.
   -f/u BMT recs
   .
   # Atrial fibrillation:  Pt had initially had intermittent episodes of
   afib with RVR and hypertension, in the setting of SBTs and complaint of
   pain and tachypnea. It was likely a combination of underlying lung
   injury and pain. Given she is unable to take PO will treat with
   standing low-dose lopressor IV until PO route established. For pain,
   she is off fentanyl drip and this time and mainly covered by fentanyl
   patch and bolus fentanyl prn. Once stable, would consider pain,
   palliative care consult to provide a good pain regimen for the
   long-term.  She is also quite anxious, which we can treat with low dose
   ativan or klonopin (note: very cachectic and low RR, caution not to
   oversedate. Also with elevated compromised liver function, avoid
   long-acting agents)
   - IV lopressor with goal HR<90s
   -fentanyl patch for pain
   -ativan prn anxiety
   - if converts to rapid afib w/RVR reload amio
   -prn esmolol for elevated SBPs
   .
   # Right lung empyema: s/p thoracotomy and 3 chest tubes, now with
   collapsed lung, CT back on suction. Repeat CXR showed improved ptx, per
   thoracic will leave on suction for now.
   - appreciate thoracic [**Doctor First Name 91**] following and recs.
   - antibiotics as above
   .
   # GVHD:  Patient is found to have severe graft vs host disease of both
   liver and GI tract. On IV solumedrol [**Hospital1 **]. Her LFTs continue to increase
   which may be due to GVHD vs. acalculous cholecystitis as above. No BMs
   for several days which is inconsistent with GVHD of the gut. RUQ US
   negative for cholecystitis, Dobhoff placed yesterday and TF begun this
   am.
   - appreciate BMT recs.
   - solumedrol [**Hospital1 **]
   - trend LFTs
   .
   # Skin wounds
 wound care and dermatology following, appreciate their
   recs.
   -          continue wound care
   .
   # Thrombocytopenia:  Most likely due to GVHD vs. bone marrow
   suppression secondary to sepsis. Receiving plt transfusion this am. For
   platelets of 26.
   -          Plt transfusion to 60 000 per BMT recs
   .
   # ALL: Appreciate BMT recs. Continue cellcept.
   .
   # FEN: Pt is very cachectic. TFs via Dobhoff today. Nutrition consult
   to ensure she is getting appropriate calories.  On K, Mg scales.
   .
   # Prophylaxis: PPI. Pneumoboots given thrombocytopenia., BM regimen
   .
   # Access: LIJ and Aline. PICC placement would be ideal for long-term
   abx, however known DVT in RUE. Would US first before PICC placement.
   This will also allow us to remove LIJ.
   .
   # Contact:  HCP [**Name (NI) 3369**] [**Name (NI) 3370**], Husband, [**Telephone/Fax (1) 3371**]
   .
   # Code: Full Code
   .
   # Dispo: ICU for now, possible extubation today.
 HYPERTENSION, BENIGN
 HEMOTHORAX
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CANCER (MALIGNANT NEOPLASM), OTHER
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2132-1-10**] 12:20 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-1-3**] 12:46 AM
   Multi Lumen - [**2132-1-3**] 09:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-01-11 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Transfused 1 unit platelets with increase from 26 to 89
   BMT recs: 20 methylprednisone in AM, 15 in PM
   Thoracic recs: keep on suction
   Increased fentanyl patch to 150 for better pain control
   Implimented nutrition recs for tube feeds yesterday am
   Allergies:
   Cefepime
   Rash;
   Aztreonam
   Rash;
   Last dose of Antibiotics:
   Caspofungin - [**2132-1-10**] 12:00 PM
   Acyclovir - [**2132-1-11**] 12:22 AM
   Meropenem - [**2132-1-11**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-1-10**] 08:00 AM
   Lorazepam (Ativan) - [**2132-1-10**] 04:15 PM
   Fentanyl - [**2132-1-11**] 05:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-11**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 68 (65 - 85) bpm
   BP: 149/90(114) {122/70(88) - 161/93(122)} mmHg
   RR: 9 (8 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 48.5 kg (admission): 41 kg
             Total In:
                                                                  2,756 mL
                                                                    596 mL
   PO:
             TF:
                                                                    537 mL
                                                                    185 mL
   IVF:
                                                                  1,705 mL
                                                                    311 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  2,705 mL
                                                                  1,350 mL
   Urine:
                                                                  2,535 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     51 mL
                                                                   -754 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   GEN: awake and alert, extubated
   HEENT: soft, raspy voice, very slightly improved from yesterday; MM
   dry, slight scleral icterus
   CV:RRR S1S2
   PULM; CTA on L, diminished  on R breath sounds, pain with deep
   inspiration. Chest tubes on suction, no air-leak.
   ABD: soft, nondistended, nontender +bs
   EXT: warm, well pefused, significant 2+ spongy bil leg edema, some UE
   edema as well.
   NUERO: A+O x 3, moving all extremities,
   Labs / Radiology
   72 K/uL
   9.3 g/dL
   136 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.6 mEq/L
   24 mg/dL
   100 mEq/L
   135 mEq/L
   26.4 %
   7.8 K/uL
        [image002.jpg]
                            [**2132-1-8**]  04:28 PM
                            [**2132-1-8**]  05:30 PM
                            [**2132-1-8**]  08:26 PM
                            [**2132-1-9**]  12:46 AM
                            [**2132-1-9**]  03:55 AM
                            [**2132-1-9**]  04:06 AM
                            [**2132-1-9**]  06:21 AM
                            [**2132-1-10**]  03:03 AM
                            [**2132-1-10**]  06:24 PM
                            [**2132-1-11**]  02:30 AM
   WBC
   10.6
   11.5
   7.3
   7.8
   Hct
   31.5
   30.7
   28.1
   26.4
   Plt
   90
   63
   26
   82
   72
   Cr
   0.6
   0.5
   0.4
   0.4
   TCO2
   26
   28
   32
   28
   30
   Glucose
   142
   93
   128
   136
   Other labs: PT / PTT / INR:12.6/21.9/1.1, ALT / AST:124/87, Alk Phos /
   T Bili:444/5.1, Differential-Neuts:94.9 %, Band:3.0 %, Lymph:3.1 %,
   Mono:1.9 %, Eos:0.1 %, Fibrinogen:552 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:2.3 g/dL, LDH:307 IU/L, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   56-year-old woman with a history of [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3327**] chromosome ALL s/p
   allogeneic transplant, s/p DLI (day 121) with subsequent severe GVHD
   underwent thoracotomy for empyema and found to be in septic shock.
   .
   # Septic shock:  Enterococcus and GNR empyema and GNR bacteremia,
   treated with meropenem (day 8 of 2week course). Also has urine and BAL
   with multiple organisms, although all organisms are pan-sensitive.
   History of VRE UTI. Hemodynamically stable, extubated, and
   autodiuresing. Given collapsed lung, chest tubes put back on suction
   for now, repeat CXR showed improved PTX. No air leak. Thoracic service
   following.
   -continue meropenem, caspofungin, and acyclovir prophylaxis
   - f/u thoracic recs
   -support breathing with pulmonary toilet prn
   - f/u repeat cxr
   .
   Culture data
   [**12-31**] Stool: negative for microsporidium, clyclospora, c.diff,
   ova/parasites
   [**1-2**] Hemothrax: Enterococcus
   [**1-2**] Urine: Klebsiella oxytoca, Morganella morgani
   [**1-2**] Rind: Enterobacter cloacae
   [**1-3**] Bronchial washing: Enterobacter aerogenes
   [**1-3**] Blood cx: Klebsiella oxytoca, Enterobacter cloacae
   MRSA negative
   .
   # Transaminitis: Likely secondary to GVHD however cannot rule out
   acalculous cholecystitis given prolonged abx use and ICU stay.
   Nontender to palp over RUQ this AM, although slight icterus on exam.
   RUQ U/S- negative for cholecystitis. LFTs stable today. No change in
   steroid/cellcept regimen.
   -f/u BMT recs
   .
   # Atrial fibrillation:  Pt had initially had intermittent episodes of
   afib with RVR and hypertension, in the setting of SBTs and complaint of
   pain and tachypnea. It was likely a combination of underlying lung
   injury and pain. Given she is unable to take PO will treat with
   standing low-dose lopressor IV until PO route established. For pain,
   she is off fentanyl drip and this time and mainly covered by fentanyl
   patch and bolus fentanyl prn. Once stable, would consider pain,
   palliative care consult to provide a good pain regimen for the
   long-term.  She is also quite anxious, which we can treat with low dose
   ativan or klonopin (note: very cachectic and low RR, caution not to
   oversedate. Also with elevated compromised liver function, avoid
   long-acting agents)
   - IV lopressor with goal HR<90s
   -fentanyl patch for pain
   -ativan prn anxiety
   - if converts to rapid afib w/RVR reload amio
   -prn esmolol for elevated SBPs
   .
   # Right lung empyema: s/p thoracotomy and 3 chest tubes, now with
   collapsed lung, CT back on suction. Repeat CXR showed improved ptx, per
   thoracic will leave on suction for now.
   - appreciate thoracic [**Doctor First Name 91**] following and recs.
   - antibiotics as above
   .
   # GVHD:  Patient is found to have severe graft vs host disease of both
   liver and GI tract. On IV solumedrol [**Hospital1 **]. Her LFTs continue to increase
   which may be due to GVHD vs. acalculous cholecystitis as above. No BMs
   for several days which is inconsistent with GVHD of the gut. RUQ US
   negative for cholecystitis, Dobhoff placed yesterday and TF begun this
   am.
   - appreciate BMT recs.
   - solumedrol [**Hospital1 **]
   - trend LFTs
   .
   # Skin wounds
 wound care and dermatology following, appreciate their
   recs.
   -          continue wound care
   .
   # Thrombocytopenia:  Most likely due to GVHD vs. bone marrow
   suppression secondary to sepsis. Receiving plt transfusion this am. For
   platelets of 26.
   -          Plt transfusion to 60 000 per BMT recs
   .
   # ALL: Appreciate BMT recs. Continue cellcept.
   .
   # FEN: Pt is very cachectic. TFs via Dobhoff today. Nutrition consult
   to ensure she is getting appropriate calories.  On K, Mg scales.
   .
   # Prophylaxis: PPI. Pneumoboots given thrombocytopenia., BM regimen
   .
   # Access: LIJ and Aline. PICC placement would be ideal for long-term
   abx, however known DVT in RUE. Would US first before PICC placement.
   This will also allow us to remove LIJ.
   .
   # Contact:  HCP [**Name (NI) 3369**] [**Name (NI) 3370**], Husband, [**Telephone/Fax (1) 3371**]
   .
   # Code: Full Code
   .
   # Dispo: ICU for now, possible extubation today.
 HYPERTENSION, BENIGN
 HEMOTHORAX
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CANCER (MALIGNANT NEOPLASM), OTHER
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2132-1-10**] 07:24 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-1-3**] 12:46 AM
   Multi Lumen - [**2132-1-3**] 09:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: